US08138178B2
3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile
The title compound was prepared from 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile and 2-oxo-1,2-dihydropyridin-5-ylboronic acid following a procedure analogous to that described in Example 4. LC-MS Method 1 tR=1.37 min, m/z=474 (M+1); 1H NMR (CDCl3) 7.97, (dd, 1H), 7.73 (s, 1H), 7.33 (m, 2H), 7.20 (d, 2H), 7.17 (t, 2H), 6.98 (m, 3H), 5.67 (q, 1H), 3.00 (dt, 1H), 2.49 (m, 2H), 2.30 (m, 1H), 2.13 (s, 2H), 1.55 (d, 3H), 1.45 (s, 3H), 1.34 (s, 3H).

reactant | 3-((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=C(C=C1)F)CC(C#N)(C)C)=O | C23H24BrFN2O2
reactant | 2-oxo-1,2-dihydropyridin-5-ylboronic acid | O=C1NC=C(C=C1)B(O)O | C5H6BNO3
product | 3-((R)-6-(4-fluorophenyl)-2-oxo-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-6-yl)-2,2-dimethylpropanenitrile | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)CC(C#N)(C)C | C28H28FN3O3
